US04568383
9.0 parts by weight of 2-butyryl-4-carbomethoxy-5-(1,3,3-trimethylcyclohex-1-en-2-yl)-cyclohexane-1,3-dione are dissolved in 100 parts by volume of ethanol, and 1.5 parts by weight of ethoxyamine are added. The mixture is stirred at room temperature for 8 hours and concentrated under reduced pressure. The residue is taken up in 50 parts by volume of methylene chloride and the solution is washed with 5% strength hydrochloric acid and water and concentrated under reduced pressure. 2-(1-Ethoxyaminobutylidene)-4-carbomethoxy-5-(1,3,3-trimethylcyclohex-1-en-2-yl)-cyclohexane-1,3-dione is obtained in quantitative yield, as crystals of melting point 70° C. (active ingredient No.3).

reactant | 2-butyryl-4-carbomethoxy-5-(1,3,3-trimethylcyclohex-1-en-2-yl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(C(C1=O)C(=O)OC)C1=C(CCCC1(C)C)C)=O | C21H30O5
reactant | ethoxyamine | C(C)ON | C2H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(1-Ethoxyaminobutylidene)-4-carbomethoxy-5-(1,3,3-trimethylcyclohex-1-en-2-yl)-cyclohexane-1,3-dione | quantitative yield | C(C)ONC(CCC)=C1C(CC(C(C1=O)C(=O)OC)C1=C(CCCC1(C)C)C)=O | C23H35NO5
